US06599902B2
5-Formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (3.0 g, 17.9 mmol) reacted with diethylamino propylamine (2.57 g, 19.7 mmol) to give 3.19 g (64%) of 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (3-diethylamino-propyl)-amide.

reactant | 5-Formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 17.9 mmol, 3.0 g | C(=O)C1=C(C(=C(N1)C)C(=O)O)C | C8H9NO3
reactant | diethylamino propylamine | 19.7 mmol, 2.57 g | C(C)N(CC)CCCN | C7H18N2
product | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (3-diethylamino-propyl)-amide | 3.19 g, 64% | C(C)N(CCCNC(=O)C1=C(NC(=C1C)C=O)C)CC | C15H25N3O2
